US08048909B2
1-{1-[(4-Fluorophenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}-N-methylmethanamine
To a solution (5 mL) of 1-[(4-fluorophenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde (160 mg) in tetrahydrofuran was added benzylmethylamine (88 mg), and the mixture was stirred at room temperature for 30 min. Sodium triacetoxyborohydride (329 mg) was added to the reaction mixture, and the mixture was stirred at room temperature for 1 hr. Saturated aqueous sodium hydrogen carbonate was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was dissolved in methanol (5 mL), 10% palladium carbon (50% water-containing product, 180 mg) and formic acid (0.027 mL) were added, and the mixture was stirred under a hydrogen atmosphere at room temperature for 10 hr. The reaction mixture was filtrated, and the filtrate was concentrated under reduced pressure. To the residue was added saturated aqueous sodium hydrogen carbonate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: hexane-ethyl acetate=6:1→2:1) to give the title compound as a colorless oil (yield 55 mg, 33%).

reactant | 1-[(4-fluorophenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde | 5 mL, 160 mg | FC1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)C=O | C17H12FNO3S
reactant | benzylmethylamine | 88 mg | C(C1=CC=CC=C1)CN | C8H11N
reactant | Sodium triacetoxyborohydride | 329 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-{1-[(4-Fluorophenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}-N-methylmethanamine | yield 55 mg, 33% | FC1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)CNC | C18H17FN2O2S
